US06878738B1
g) 5-Benzyl-3-(benzyloxymethyl)-3-methyl-3,4-dihydro-2H-pyrrole
A benzylmagnesium chloride solution in ether (224 ml, 1 M, 0.224 mol) is heated to 30° C. and a solution of 4-benzyloxy-3-chloromethyl-3-methylbutyronitrile (75%, 40 g, 0.126 mol) in diethyl ether (140 ml) is slowly added dropwise (30 min.). The suspension formed is kept at reflux by warming after complete addition. After 2 h, the ether (310 ml) is distilled off (45 min.) and then replaced by toluene abs. (210 ml). The yellow toluene suspension is heated to 100° C. and then stirred at this temperature for 2 h. The batch, which is cooled to room temperature, is treated with dil. HCl (10% strength, 100 ml) and stirred until, in addition to the aqueous and the toluene phase, a third, oily phase separates. The oil phase and water phase are separated off, and the toluene phase is extracted 2 times in a separating funnel with dil. HCl (100 ml). The oil phase combined with the HCl phases is washed with toluene (50 ml) and then adjusted to pH 8-9 with NaOH (32%). After stirring for 30 min., the separated oily base fraction is taken up with diethyl ether, and the alkaline water phase is extracted a further 3 times with ether (450 ml). The collected ether extracts are dried over Na2SO4 sicc. and concentrated. A red-brown oily residue of 39.64 g (96% of theory, 78% according to gc) remains.

reactant | benzylmagnesium chloride | C(C1=CC=CC=C1)[Mg]Cl
reactant | 4-benzyloxy-3-chloromethyl-3-methylbutyronitrile | 0.126 mol, 40 g | C(C1=CC=CC=C1)OCC(CC#N)(C)CCl | C13H16ClNO
solvent | diethyl ether | 140 ml | C(C)OCC | C4H10O
solvent | ether | 0.224 mol, 1 M, 224 ml | CCOCC | C4H10O
product | 5-Benzyl-3-(benzyloxymethyl)-3-methyl-3,4-dihydro-2H-pyrrole | C(C1=CC=CC=C1)C=1CC(CN1)(C)COCC1=CC=CC=C1 | C20H23NO
